US07427615B2
Synthesis of 2-(2-benzoylmorpholin-4-yl)-3-methyl-6-pyridin-4-yl-3H-pyrimidin-4-one (Compound No. C101 in Table-1)
A solution of 2-benzoylmorpholine hydrochloride (269 mg, 1.17 mmol), 2-chloro-3-methyl-6-(4-pyridyl)-pyrimidine-4-one (320 mg, 1.41 mmol) and triethylamine (0.49 ml, 3.51 mmol) in tetrahydrofuran (10 ml) was refluxed for several hours. The precipitate was filtered off after cooling and solvent was removed in vacuo. The residue was washed with refluxing ethyl acetate and diethyl ether to give the title compound (447 mg, quant.).

reactant | 2-benzoylmorpholine hydrochloride | 1.17 mmol, 269 mg | Cl.C(C1=CC=CC=C1)(=O)C1CNCCO1
reactant | 2-chloro-3-methyl-6-(4-pyridyl)-pyrimidine-4-one | 1.41 mmol, 320 mg | ClC1=NC(=CC(N1C)=O)C1=CC=NC=C1 | C10H8ClN3O
reactant | triethylamine | 3.51 mmol, 0.49 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-(2-benzoylmorpholin-4-yl)-3-methyl-6-pyridin-4-yl-3H-pyrimidin-4-one | 447 mg | C(C1=CC=CC=C1)(=O)C1CN(CCO1)C1=NC(=CC(N1C)=O)C1=CC=NC=C1 | C21H20N4O3
